US07842688B2
d) tert-Butyl 3-allyloxy-4-{4-[3-(2-chlorophenoxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 2.01 g of tert-butyl 4-{4-[3-(2-chlorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate and 0.74 ml of allylbromide are reacted. The title compound is obtained as a colourless oil. Rf=0.80 (1:1 EtOAc-heptane); Rt=6.13.

reactant | tert-butyl 4-{4-[3-(2-chlorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | 2.01 g | ClC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)C=CC=C1 | C25H32ClNO5
reactant | allylbromide | 0.74 ml | C(C=C)Br | C3H5Br
product | tert-Butyl 3-allyloxy-4-{4-[3-(2-chlorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | C(C=C)OC1CN(CCC1C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)Cl)C(=O)OC(C)(C)C | C28H36ClNO5
